* Canonical DUT generated from benchmark/analogcoder_pro/p06_inverter.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p6: A NMOS inverter with resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p6\p6.py
* AnalogCoder-Pro type: Inverter
* Inputs: Vin
* Outputs: Vout
.MODEL nmos NMOS (LEVEL=1 KP=0.0002 VTO=0.7)
Vdd Vdd 0 5
* original signal source: Vin Vin 0 0
Vin Vin 0 0
Rload Vdd Vout 1
M1 Vout Vin 0 0 nmos
* original analysis: .OP
* original analysis: .TRAN 1N 10U
.END
